* C:\Users\Yogapriya\eSim-Workspace\yoga\yoga.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/08/22 19:53:43

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U3  Net-_U21-Pad9_ Net-_U21-Pad10_ Net-_U21-Pad11_ Net-_U21-Pad12_ Net-_U21-Pad13_ Net-_U21-Pad14_ Net-_U21-Pad15_ Net-_U21-Pad16_ Net-_U27-Pad1_ Net-_U27-Pad2_ Net-_U27-Pad3_ yogapriya		
SC3  Net-_SC1-Pad3_ Net-_SC3-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC1  Net-_SC1-Pad1_ Net-_SC1-Pad2_ Net-_SC1-Pad3_ GND sky130_fd_pr__nfet_01v8		
v2  Net-_SC2-Pad4_ GND DC		
SC4  Net-_SC2-Pad3_ GND Net-_SC2-Pad4_ Net-_SC2-Pad4_ sky130_fd_pr__pfet_01v8		
SC2  Net-_SC1-Pad1_ Net-_SC1-Pad2_ Net-_SC2-Pad3_ Net-_SC2-Pad4_ sky130_fd_pr__pfet_01v8		
SC8  Net-_SC15-Pad3_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8		
SC15  Net-_SC10-Pad1_ Net-_SC10-Pad2_ Net-_SC15-Pad3_ Net-_SC15-Pad3_ sky130_fd_pr__nfet_01v8		
SC10  Net-_SC10-Pad1_ Net-_SC10-Pad2_ Net-_SC10-Pad3_ Net-_SC10-Pad3_ sky130_fd_pr__pfet_01v8		
SC12  Net-_SC10-Pad3_ Net-_SC11-Pad2_ Net-_SC11-Pad3_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8		
SC11  Net-_SC11-Pad1_ Net-_SC11-Pad2_ Net-_SC11-Pad3_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8		
SC13  Net-_SC10-Pad2_ Net-_SC13-Pad2_ Net-_SC11-Pad1_ Net-_SC11-Pad1_ sky130_fd_pr__pfet_01v8		
v7  Net-_SC11-Pad3_ GND DC		
U5  Net-_U2-Pad2_ Net-_U10-Pad2_ Net-_U2-Pad1_ Net-_U5-Pad4_ sam_nand		
U2  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ yo_nand		
U4  Net-_U2-Pad3_ Net-_U10-Pad2_ Net-_U2-Pad2_ yo_nand		
U6  Net-_U5-Pad4_ Net-_U20-Pad2_ Net-_U2-Pad1_ yo_nand		
U9  Net-_U16-Pad1_ Net-_U5-Pad4_ Net-_U8-Pad2_ yo_nand		
SC35  Net-_SC11-Pad3_ Net-_SC11-Pad2_ Net-_SC11-Pad2_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8		
U8  Net-_U2-Pad2_ Net-_U8-Pad2_ Net-_U16-Pad1_ yo_nand		
SC50  Net-_SC50-Pad1_ Net-_SC50-Pad2_ Net-_SC50-Pad3_ Net-_SC50-Pad3_ sky130_fd_pr__nfet_01v8		
SC58  Net-_SC56-Pad1_ Net-_SC50-Pad1_ Net-_SC58-Pad3_ Net-_SC58-Pad3_ sky130_fd_pr__nfet_01v8		
SC52  Net-_SC52-Pad1_ Net-_SC46-Pad1_ Net-_SC47-Pad1_ Net-_SC47-Pad1_ sky130_fd_pr__pfet_01v8		
SC55  Net-_SC55-Pad1_ Net-_SC46-Pad1_ Net-_SC47-Pad1_ Net-_SC47-Pad1_ sky130_fd_pr__pfet_01v8		
SC53  Net-_SC50-Pad1_ Net-_SC50-Pad2_ Net-_SC52-Pad1_ Net-_SC52-Pad1_ sky130_fd_pr__pfet_01v8		
SC56  Net-_SC56-Pad1_ Net-_SC50-Pad1_ Net-_SC55-Pad1_ Net-_SC55-Pad1_ sky130_fd_pr__pfet_01v8		
v9  Net-_SC47-Pad1_ GND DC		
SC47  Net-_SC47-Pad1_ Net-_SC46-Pad1_ Net-_SC46-Pad1_ Net-_SC47-Pad1_ sky130_fd_pr__pfet_01v8		
SC71  Net-_SC50-Pad3_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8		
SC70  Net-_SC48-Pad2_ Net-_SC56-Pad1_ Net-_SC70-Pad3_ Net-_SC70-Pad3_ sky130_fd_pr__nfet_01v8		
SC80  Net-_SC58-Pad3_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8		
SC81  Net-_SC48-Pad1_ Net-_SC48-Pad2_ Net-_SC81-Pad3_ Net-_SC81-Pad3_ sky130_fd_pr__nfet_01v8		
SC72  Net-_SC72-Pad1_ Net-_SC66-Pad1_ Net-_SC67-Pad1_ Net-_SC67-Pad1_ sky130_fd_pr__pfet_01v8		
SC73  Net-_SC48-Pad2_ Net-_SC56-Pad1_ Net-_SC72-Pad1_ Net-_SC72-Pad1_ sky130_fd_pr__pfet_01v8		
v11  Net-_SC67-Pad1_ GND DC		
SC67  Net-_SC67-Pad1_ Net-_SC66-Pad1_ Net-_SC66-Pad1_ Net-_SC67-Pad1_ sky130_fd_pr__pfet_01v8		
SC18  Net-_SC18-Pad1_ Net-_SC18-Pad2_ Net-_SC17-Pad1_ Net-_SC17-Pad1_ sky130_fd_pr__nfet_01v8		
SC17  Net-_SC17-Pad1_ Net-_SC17-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC23  Net-_SC22-Pad1_ Net-_SC18-Pad1_ Net-_SC23-Pad3_ Net-_SC23-Pad3_ sky130_fd_pr__nfet_01v8		
SC24  Net-_SC23-Pad3_ Net-_SC17-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC19  Net-_SC19-Pad1_ Net-_SC16-Pad2_ Net-_SC16-Pad1_ Net-_SC16-Pad1_ sky130_fd_pr__pfet_01v8		
SC21  Net-_SC21-Pad1_ Net-_SC16-Pad2_ Net-_SC16-Pad1_ Net-_SC16-Pad1_ sky130_fd_pr__pfet_01v8		
SC20  Net-_SC18-Pad1_ Net-_SC18-Pad2_ Net-_SC19-Pad1_ Net-_SC19-Pad1_ sky130_fd_pr__pfet_01v8		
SC22  Net-_SC22-Pad1_ Net-_SC18-Pad1_ Net-_SC21-Pad1_ Net-_SC21-Pad1_ sky130_fd_pr__pfet_01v8		
v4  Net-_SC16-Pad1_ GND DC		
SC16  Net-_SC16-Pad1_ Net-_SC16-Pad2_ Net-_SC16-Pad2_ Net-_SC16-Pad1_ sky130_fd_pr__pfet_01v8		
SC28  Net-_SC28-Pad1_ Net-_SC22-Pad1_ Net-_SC27-Pad1_ Net-_SC27-Pad1_ sky130_fd_pr__nfet_01v8		
SC27  Net-_SC27-Pad1_ Net-_SC27-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC33  Net-_SC32-Pad1_ Net-_SC28-Pad1_ Net-_SC33-Pad3_ Net-_SC33-Pad3_ sky130_fd_pr__nfet_01v8		
SC34  Net-_SC33-Pad3_ Net-_SC27-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC29  Net-_SC29-Pad1_ Net-_SC26-Pad2_ Net-_SC26-Pad1_ Net-_SC26-Pad1_ sky130_fd_pr__pfet_01v8		
SC31  Net-_SC31-Pad1_ Net-_SC26-Pad2_ Net-_SC26-Pad1_ Net-_SC26-Pad1_ sky130_fd_pr__pfet_01v8		
SC30  Net-_SC28-Pad1_ Net-_SC22-Pad1_ Net-_SC29-Pad1_ Net-_SC29-Pad1_ sky130_fd_pr__pfet_01v8		
SC32  Net-_SC32-Pad1_ Net-_SC28-Pad1_ Net-_SC31-Pad1_ Net-_SC31-Pad1_ sky130_fd_pr__pfet_01v8		
v6  Net-_SC26-Pad1_ GND DC		
SC26  Net-_SC26-Pad1_ Net-_SC26-Pad2_ Net-_SC26-Pad2_ Net-_SC26-Pad1_ sky130_fd_pr__pfet_01v8		
SC39  Net-_SC39-Pad1_ Net-_SC39-Pad2_ Net-_SC39-Pad3_ Net-_SC39-Pad3_ sky130_fd_pr__nfet_01v8		
SC38  Net-_SC38-Pad1_ Net-_SC36-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC44  Net-_SC39-Pad3_ Net-_SC36-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC45  Net-_SC39-Pad2_ Net-_SC32-Pad1_ Net-_SC38-Pad1_ Net-_SC38-Pad1_ sky130_fd_pr__nfet_01v8		
SC40  Net-_SC40-Pad1_ Net-_SC36-Pad1_ Net-_SC37-Pad1_ Net-_SC37-Pad1_ sky130_fd_pr__pfet_01v8		
SC42  Net-_SC42-Pad1_ Net-_SC36-Pad1_ Net-_SC37-Pad1_ Net-_SC37-Pad1_ sky130_fd_pr__pfet_01v8		
SC41  Net-_SC39-Pad2_ Net-_SC32-Pad1_ Net-_SC40-Pad1_ Net-_SC40-Pad1_ sky130_fd_pr__pfet_01v8		
SC43  Net-_SC39-Pad1_ Net-_SC39-Pad2_ Net-_SC42-Pad1_ Net-_SC42-Pad1_ sky130_fd_pr__pfet_01v8		
v8  Net-_SC37-Pad1_ GND DC		
SC37  Net-_SC37-Pad1_ Net-_SC36-Pad1_ Net-_SC36-Pad1_ Net-_SC37-Pad1_ sky130_fd_pr__pfet_01v8		
SC57  Net-_SC54-Pad2_ Net-_SC39-Pad1_ Net-_SC57-Pad3_ Net-_SC57-Pad3_ sky130_fd_pr__nfet_01v8		
SC54  Net-_SC54-Pad1_ Net-_SC54-Pad2_ Net-_SC54-Pad3_ Net-_SC54-Pad3_ sky130_fd_pr__nfet_01v8		
SC64  Net-_SC54-Pad3_ Net-_SC49-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC65  Net-_SC57-Pad3_ Net-_SC49-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC60  Net-_SC60-Pad1_ Net-_SC49-Pad1_ Net-_SC51-Pad1_ Net-_SC51-Pad1_ sky130_fd_pr__pfet_01v8		
SC62  Net-_SC62-Pad1_ Net-_SC49-Pad1_ Net-_SC51-Pad1_ Net-_SC51-Pad1_ sky130_fd_pr__pfet_01v8		
SC61  Net-_SC54-Pad2_ Net-_SC39-Pad1_ Net-_SC60-Pad1_ Net-_SC60-Pad1_ sky130_fd_pr__pfet_01v8		
SC63  Net-_SC54-Pad1_ Net-_SC54-Pad2_ Net-_SC62-Pad1_ Net-_SC62-Pad1_ sky130_fd_pr__pfet_01v8		
v10  Net-_SC51-Pad1_ GND DC		
SC51  Net-_SC51-Pad1_ Net-_SC49-Pad1_ Net-_SC49-Pad1_ Net-_SC51-Pad1_ sky130_fd_pr__pfet_01v8		
SC68  Net-_SC68-Pad1_ Net-_SC54-Pad1_ Net-_SC68-Pad3_ Net-_SC68-Pad3_ sky130_fd_pr__pfet_01v8		
SC75  Net-_SC69-Pad2_ Net-_SC75-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC74  Net-_SC68-Pad1_ Net-_SC54-Pad1_ Net-_SC74-Pad3_ Net-_SC74-Pad3_ sky130_fd_pr__nfet_01v8		
SC84  Net-_SC74-Pad3_ Net-_SC75-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC85  Net-_SC83-Pad1_ Net-_SC68-Pad1_ Net-_SC85-Pad3_ Net-_SC85-Pad3_ sky130_fd_pr__nfet_01v8		
SC76  Net-_SC68-Pad3_ Net-_SC69-Pad2_ Net-_SC69-Pad1_ Net-_SC69-Pad1_ sky130_fd_pr__pfet_01v8		
SC82  Net-_SC82-Pad1_ Net-_SC69-Pad2_ Net-_SC69-Pad1_ Net-_SC69-Pad1_ sky130_fd_pr__pfet_01v8		
SC83  Net-_SC83-Pad1_ Net-_SC68-Pad1_ Net-_SC82-Pad1_ Net-_SC82-Pad1_ sky130_fd_pr__pfet_01v8		
v12  Net-_SC69-Pad1_ GND DC		
SC69  Net-_SC69-Pad1_ Net-_SC69-Pad2_ Net-_SC69-Pad2_ Net-_SC69-Pad1_ sky130_fd_pr__pfet_01v8		
SC89  Net-_SC87-Pad2_ Net-_SC106-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC88  Net-_SC88-Pad1_ Net-_SC83-Pad1_ Net-_SC88-Pad3_ Net-_SC88-Pad3_ sky130_fd_pr__nfet_01v8		
SC94  Net-_SC101-Pad2_ Net-_SC88-Pad1_ Net-_SC106-Pad1_ Net-_SC106-Pad1_ sky130_fd_pr__nfet_01v8		
SC95  Net-_SC88-Pad3_ Net-_SC106-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC90  Net-_SC90-Pad1_ Net-_SC87-Pad2_ Net-_SC87-Pad1_ Net-_SC87-Pad1_ sky130_fd_pr__pfet_01v8		
SC92  Net-_SC92-Pad1_ Net-_SC87-Pad2_ Net-_SC87-Pad1_ Net-_SC87-Pad1_ sky130_fd_pr__pfet_01v8		
SC91  Net-_SC88-Pad1_ Net-_SC83-Pad1_ Net-_SC90-Pad1_ Net-_SC90-Pad1_ sky130_fd_pr__pfet_01v8		
SC93  Net-_SC101-Pad2_ Net-_SC88-Pad1_ Net-_SC92-Pad1_ Net-_SC92-Pad1_ sky130_fd_pr__pfet_01v8		
v13  Net-_SC87-Pad1_ GND DC		
SC87  Net-_SC87-Pad1_ Net-_SC87-Pad2_ Net-_SC87-Pad2_ Net-_SC87-Pad1_ sky130_fd_pr__pfet_01v8		
SC99  Net-_SC100-Pad2_ Net-_SC104-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC98  Net-_SC101-Pad1_ Net-_SC101-Pad2_ Net-_SC104-Pad1_ Net-_SC104-Pad1_ sky130_fd_pr__nfet_01v8		
SC104  Net-_SC104-Pad1_ Net-_SC104-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC105  Net-_SC103-Pad1_ Net-_SC101-Pad1_ Net-_SC105-Pad3_ Net-_SC105-Pad3_ sky130_fd_pr__nfet_01v8		
SC100  Net-_SC100-Pad1_ Net-_SC100-Pad2_ Net-_SC100-Pad3_ Net-_SC100-Pad3_ sky130_fd_pr__pfet_01v8		
SC102  Net-_SC102-Pad1_ Net-_SC100-Pad2_ Net-_SC100-Pad3_ Net-_SC100-Pad3_ sky130_fd_pr__pfet_01v8		
SC101  Net-_SC101-Pad1_ Net-_SC101-Pad2_ Net-_SC100-Pad1_ Net-_SC100-Pad1_ sky130_fd_pr__pfet_01v8		
SC103  Net-_SC103-Pad1_ Net-_SC101-Pad1_ Net-_SC102-Pad1_ Net-_SC102-Pad1_ sky130_fd_pr__pfet_01v8		
v14  Net-_SC100-Pad3_ GND DC		
SC97  Net-_SC100-Pad3_ Net-_SC100-Pad2_ Net-_SC100-Pad2_ Net-_SC100-Pad3_ sky130_fd_pr__pfet_01v8		
SC115  Net-_SC109-Pad2_ Net-_SC114-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC114  Net-_SC114-Pad1_ Net-_SC114-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC124  Net-_SC117-Pad1_ Net-_SC103-Pad1_ Net-_SC114-Pad1_ Net-_SC114-Pad1_ sky130_fd_pr__nfet_01v8		
SC125  Net-_SC113-Pad2_ Net-_SC117-Pad1_ Net-_SC125-Pad3_ Net-_SC125-Pad3_ sky130_fd_pr__nfet_01v8		
SC116  Net-_SC116-Pad1_ Net-_SC109-Pad2_ Net-_SC109-Pad1_ Net-_SC109-Pad1_ sky130_fd_pr__pfet_01v8		
SC122  Net-_SC122-Pad1_ Net-_SC109-Pad2_ Net-_SC109-Pad1_ Net-_SC109-Pad1_ sky130_fd_pr__pfet_01v8		
SC117  Net-_SC117-Pad1_ Net-_SC103-Pad1_ Net-_SC116-Pad1_ Net-_SC116-Pad1_ sky130_fd_pr__pfet_01v8		
SC123  Net-_SC113-Pad2_ Net-_SC117-Pad1_ Net-_SC122-Pad1_ Net-_SC122-Pad1_ sky130_fd_pr__pfet_01v8		
v16  Net-_SC109-Pad1_ GND DC		
SC109  Net-_SC109-Pad1_ Net-_SC109-Pad2_ Net-_SC109-Pad2_ Net-_SC109-Pad1_ sky130_fd_pr__pfet_01v8		
U37  Net-_U35-Pad2_ Net-_U36-Pad2_ Net-_U35-Pad1_ Net-_U37-Pad4_ sam_nand		
U35  Net-_U35-Pad1_ Net-_U35-Pad2_ Net-_U35-Pad3_ yo_nand		
U36  Net-_U35-Pad3_ Net-_U36-Pad2_ Net-_U35-Pad2_ yo_nand		
U38  Net-_U37-Pad4_ Net-_U38-Pad2_ Net-_U35-Pad1_ yo_nand		
U41  Net-_U40-Pad3_ Net-_U37-Pad4_ Net-_U40-Pad2_ yo_nand		
U40  Net-_U35-Pad2_ Net-_U40-Pad2_ Net-_U40-Pad3_ yo_nand		
U14  Net-_U12-Pad2_ Net-_U13-Pad2_ Net-_U12-Pad1_ Net-_U14-Pad4_ sam_nand		
U12  Net-_U12-Pad1_ Net-_U12-Pad2_ Net-_U12-Pad3_ yo_nand		
U13  Net-_U12-Pad3_ Net-_U13-Pad2_ Net-_U12-Pad2_ yo_nand		
U15  Net-_U14-Pad4_ Net-_U15-Pad2_ Net-_U12-Pad1_ yo_nand		
U19  Net-_U18-Pad3_ Net-_U14-Pad4_ Net-_U18-Pad2_ yo_nand		
U18  Net-_U12-Pad2_ Net-_U18-Pad2_ Net-_U18-Pad3_ yo_nand		
U24  Net-_U22-Pad2_ Net-_U23-Pad2_ Net-_U22-Pad1_ Net-_U24-Pad4_ sam_nand		
U22  Net-_U22-Pad1_ Net-_U22-Pad2_ Net-_U22-Pad3_ yo_nand		
U23  Net-_U22-Pad3_ Net-_U23-Pad2_ Net-_U22-Pad2_ yo_nand		
U25  Net-_U24-Pad4_ Net-_U25-Pad2_ Net-_U22-Pad1_ yo_nand		
U31  Net-_U30-Pad3_ Net-_U24-Pad4_ Net-_U30-Pad2_ yo_nand		
U30  Net-_U22-Pad2_ Net-_U30-Pad2_ Net-_U30-Pad3_ yo_nand		
U66  Net-_U64-Pad2_ Net-_U65-Pad2_ Net-_U64-Pad1_ Net-_U66-Pad4_ sam_nand		
U64  Net-_U64-Pad1_ Net-_U64-Pad2_ Net-_U64-Pad3_ yo_nand		
U65  Net-_U64-Pad3_ Net-_U65-Pad2_ Net-_U64-Pad2_ yo_nand		
U67  Net-_U66-Pad4_ Net-_U67-Pad2_ Net-_U64-Pad1_ yo_nand		
U72  Net-_U71-Pad3_ Net-_U66-Pad4_ Net-_U71-Pad2_ yo_nand		
U71  Net-_U64-Pad2_ Net-_U71-Pad2_ Net-_U71-Pad3_ yo_nand		
U49  Net-_U47-Pad2_ Net-_U48-Pad2_ Net-_U47-Pad1_ Net-_U49-Pad4_ sam_nand		
U47  Net-_U47-Pad1_ Net-_U47-Pad2_ Net-_U47-Pad3_ yo_nand		
U48  Net-_U47-Pad3_ Net-_U48-Pad2_ Net-_U47-Pad2_ yo_nand		
U50  Net-_U49-Pad4_ Net-_U50-Pad2_ Net-_U47-Pad1_ yo_nand		
U55  Net-_U54-Pad3_ Net-_U49-Pad4_ Net-_U54-Pad2_ yo_nand		
U54  Net-_U47-Pad2_ Net-_U54-Pad2_ Net-_U54-Pad3_ yo_nand		
U61  Net-_U59-Pad2_ Net-_U60-Pad2_ Net-_U59-Pad1_ Net-_U61-Pad4_ sam_nand		
U59  Net-_U59-Pad1_ Net-_U59-Pad2_ Net-_U59-Pad3_ yo_nand		
U60  Net-_U59-Pad3_ Net-_U60-Pad2_ Net-_U59-Pad2_ yo_nand		
U62  Net-_U61-Pad4_ Net-_U62-Pad2_ Net-_U59-Pad1_ yo_nand		
U70  Net-_U58-Pad1_ Net-_U61-Pad4_ Net-_U69-Pad2_ yo_nand		
U69  Net-_U59-Pad2_ Net-_U69-Pad2_ Net-_U58-Pad1_ yo_nand		
U44  Net-_U42-Pad2_ Net-_U43-Pad2_ Net-_U42-Pad1_ Net-_U44-Pad4_ sam_nand		
U42  Net-_U42-Pad1_ Net-_U42-Pad2_ Net-_U42-Pad3_ yo_nand		
U45  Net-_U44-Pad4_ Net-_U45-Pad2_ Net-_U42-Pad1_ yo_nand		
U53  Net-_U52-Pad3_ Net-_U44-Pad4_ Net-_U52-Pad2_ yo_nand		
U52  Net-_U42-Pad2_ Net-_U52-Pad2_ Net-_U52-Pad3_ yo_nand		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ yo_mux		
U11  Net-_U1-Pad4_ Net-_SC1-Pad2_ dac_bridge_1		
U7  Net-_U7-Pad1_ Net-_SC2-Pad4_ Net-_SC48-Pad1_ Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ adc_bridge_3		
v3  Net-_SC3-Pad2_ GND DC		
v1  Net-_U7-Pad1_ GND DC		
U10  Net-_SC22-Pad1_ Net-_U10-Pad2_ adc_bridge_1		
U16  Net-_U16-Pad1_ Net-_U16-Pad2_ dac_bridge_1		
U17  Net-_SC32-Pad1_ Net-_U13-Pad2_ adc_bridge_1		
U28  Net-_SC39-Pad1_ Net-_U23-Pad2_ adc_bridge_1		
U39  Net-_SC54-Pad1_ Net-_U36-Pad2_ adc_bridge_1		
U63  Net-_SC101-Pad2_ Net-_U60-Pad2_ adc_bridge_1		
U51  Net-_SC83-Pad1_ Net-_U48-Pad2_ adc_bridge_1		
SC111  Net-_SC107-Pad2_ Net-_SC111-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC110  Net-_SC110-Pad1_ Net-_SC110-Pad2_ Net-_SC110-Pad3_ Net-_SC110-Pad3_ sky130_fd_pr__nfet_01v8		
SC120  Net-_SC110-Pad2_ Net-_SC113-Pad2_ Net-_SC120-Pad3_ Net-_SC120-Pad3_ sky130_fd_pr__nfet_01v8		
SC121  Net-_SC110-Pad3_ Net-_SC111-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC112  Net-_SC112-Pad1_ Net-_SC107-Pad2_ Net-_SC107-Pad1_ Net-_SC107-Pad1_ sky130_fd_pr__pfet_01v8		
SC118  Net-_SC118-Pad1_ Net-_SC107-Pad2_ Net-_SC107-Pad1_ Net-_SC107-Pad1_ sky130_fd_pr__pfet_01v8		
SC113  Net-_SC110-Pad2_ Net-_SC113-Pad2_ Net-_SC112-Pad1_ Net-_SC112-Pad1_ sky130_fd_pr__pfet_01v8		
SC119  Net-_SC110-Pad1_ Net-_SC110-Pad2_ Net-_SC118-Pad1_ Net-_SC118-Pad1_ sky130_fd_pr__pfet_01v8		
v15  Net-_SC107-Pad1_ GND DC		
SC107  Net-_SC107-Pad1_ Net-_SC107-Pad2_ Net-_SC107-Pad2_ Net-_SC107-Pad1_ sky130_fd_pr__pfet_01v8		
U73  Net-_SC103-Pad1_ Net-_U65-Pad2_ adc_bridge_1		
U57  Net-_U43-Pad2_ Net-_SC113-Pad2_ adc_bridge_1		
U26  Net-_U18-Pad3_ Net-_U21-Pad2_ dac_bridge_1		
U34  Net-_U30-Pad3_ Net-_U21-Pad3_ dac_bridge_1		
U21  Net-_U16-Pad2_ Net-_U21-Pad2_ Net-_U21-Pad3_ Net-_U21-Pad4_ Net-_U21-Pad5_ Net-_U21-Pad6_ Net-_U21-Pad7_ Net-_U21-Pad8_ Net-_U21-Pad9_ Net-_U21-Pad10_ Net-_U21-Pad11_ Net-_U21-Pad12_ Net-_U21-Pad13_ Net-_U21-Pad14_ Net-_U21-Pad15_ Net-_U21-Pad16_ adc_bridge_8		
U27  Net-_U27-Pad1_ Net-_U27-Pad2_ Net-_U27-Pad3_ O1 O2 O3 dac_bridge_3		
U46  Net-_U40-Pad3_ Net-_U21-Pad4_ dac_bridge_1		
U58  Net-_U58-Pad1_ Net-_U21-Pad6_ dac_bridge_1		
U74  Net-_U71-Pad3_ Net-_U21-Pad7_ dac_bridge_1		
U68  Net-_U52-Pad3_ Net-_U21-Pad8_ dac_bridge_1		
U56  Net-_U54-Pad3_ Net-_U21-Pad5_ dac_bridge_1		
U29  O1 plot_v1		
U32  O2 plot_v1		
U33  O3 plot_v1		
scmode1  SKY130mode		
v5  Net-_SC13-Pad2_ GND pulse		
SC5  GND Net-_SC1-Pad1_ GND sky130_fd_pr__res_generic_pd		
SC78  Net-_SC48-Pad3_ Net-_SC66-Pad1_ Net-_SC67-Pad1_ Net-_SC67-Pad1_ sky130_fd_pr__pfet_01v8		
SC14  Net-_SC14-Pad1_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8		
SC9  Net-_SC10-Pad2_ Net-_SC13-Pad2_ Net-_SC14-Pad1_ Net-_SC14-Pad1_ sky130_fd_pr__nfet_01v8		
SC46  Net-_SC46-Pad1_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8		
SC25  Net-_SC11-Pad2_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8		
SC66  Net-_SC66-Pad1_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8		
SC77  Net-_SC70-Pad3_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8		
SC86  Net-_SC81-Pad3_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8		
SC6  Net-_SC16-Pad2_ Net-_SC17-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC7  Net-_SC26-Pad2_ Net-_SC27-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC36  Net-_SC36-Pad1_ Net-_SC36-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC49  Net-_SC49-Pad1_ Net-_SC49-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC96  Net-_SC85-Pad3_ Net-_SC75-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC106  Net-_SC106-Pad1_ Net-_SC106-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC108  Net-_SC105-Pad3_ Net-_SC104-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC127  Net-_SC125-Pad3_ Net-_SC114-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC126  Net-_SC120-Pad3_ Net-_SC111-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC48  Net-_SC48-Pad1_ Net-_SC48-Pad2_ Net-_SC48-Pad3_ Net-_SC48-Pad3_ sky130_fd_pr__pfet_01v8		
U78  Net-_SC48-Pad1_ Net-_U45-Pad2_ adc_bridge_1		
U20  Net-_U20-Pad1_ Net-_U20-Pad2_ adc_bridge_1		
U75  Net-_U20-Pad1_ Net-_U15-Pad2_ adc_bridge_1		
U76  Net-_U20-Pad1_ Net-_U25-Pad2_ adc_bridge_1		
U77  Net-_U20-Pad1_ Net-_U38-Pad2_ adc_bridge_1		
U79  Net-_U20-Pad1_ Net-_U50-Pad2_ adc_bridge_1		
U81  Net-_U20-Pad1_ Net-_U67-Pad2_ adc_bridge_1		
U80  ? Net-_U62-Pad2_ adc_bridge_1		
U82  Net-_SC13-Pad2_ Net-_SC18-Pad2_ adc_bridge_1		
U43  Net-_U42-Pad3_ Net-_U43-Pad2_ Net-_U42-Pad2_ yo_nand		
U83  Net-_SC48-Pad1_ Net-_U20-Pad1_ adc_bridge_1		

.end
